US04950745
2-Chloroethanol (4.02 ml, 60 mmol) and monomethoxytrityl chloride (9.2643 g, 30 mmol) were stirred in pyridine (150 ml) at room temperature for 3 hours. Cold water (15 ml) was added to the reaction solution and the mixture was stirred for 30 minutes, and the reaction mixture was extracted with chloroform (500 ml) and washed with water (200 ml ×3 times). The organic layer was dried with anhydrous magnesium sulfate. The magnesium sulfate was removed by filtration and the filtrate was distilled under a reduced pressure. n-Hexane (100 ml) was added to the residue to effect crystallization, and thus 9.6307 g (yield=91%) of 2-chloroethyl monomethoxytrityl ether <1> was obtained.

reactant | 2-Chloroethanol | 60 mmol, 4.02 ml | ClCCO | C2H5ClO
reactant | monomethoxytrityl chloride | 30 mmol, 9.2643 g | COC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC=C1 | C20H17ClO
reactant | water | 15 ml | O | H2O
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloroethyl monomethoxytrityl ether | 9.6307 g, yield=91% | COC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OCCCl)C=CC=C1 | C22H21ClO2
